US06291475B1
(a) N-(5-Cyano-2-hydroxyphenyl)-N′-ethylurea
Ethyl isocyanate (7.1 g; 100 mmol) was added to a stirred solution of 2-amino-4-cyanophenol (13.4 g; 100 mmol) in MeCN (250 mL), and the resultant solution was stirred for 12 h. The precipitate was filtered off and dried (vacuum) to give the sub-title compound in a 70% yield.

reactant | Ethyl isocyanate | 100 mmol, 7.1 g | C(C)N=C=O | C3H5NO
reactant | 2-amino-4-cyanophenol | 100 mmol, 13.4 g | NC1=C(C=CC(=C1)C#N)O | C7H6N2O
solvent | MeCN | 250 mL | CC#N | C2H3N
product | N-(5-Cyano-2-hydroxyphenyl)-N′-ethylurea | 70% yield | C(#N)C=1C=CC(=C(C1)NC(=O)NCC)O | C10H11N3O2
